US04680412
500 parts (2.739 moles) of 3-chlorophthalic anhydride and 49.9 parts of thionyl chloride are added to 820 parts of sulfolane, while stirring. The mixture is stirred for 30 minutes at 100° C., after which the evolution of gas is complete. Excess thionyl chloride is stripped off under reduced pressure from a water pump, after which 175 parts of potassium fluoride are added and stirring is continued for 6 hours at 210° C. The mixture is cooled to 60° C., and 82 parts (1.37 moles) of urea are then added. The mixture is stirred for 1 hour 30 minutes at 130° C., when evolution of gas is complete, after which stirring is continued for a further 15 minutes at 170° C. The mixture is then cooled to room temperature, 300 parts of acetone are added, while stirring, and the predominantly inorganic precipitate is filtered off under suction. The filtrate is freed from acetone in a rotary evaporator, and the residue is then distilled over a 10 cm packed column at a bath temperature of 140°-170° C. under 0.4 mbar. The distillation residue is stirred with water, and the product is filtered off under suction, washed with methyl tert.-butyl ether and dried, 382 parts (84.5% of theory) of 3-fluorophthalimide of melting point 176°-179° C. being obtained. By treating the inorganic residue with 300 parts of acetone, separating off the extract and evaporating it down under reduced pressure, a further 29 parts (6.8% of theory) of 3-fluorophthalimide of melting point 166°-178° C. are isolated.

reactant | 3-chlorophthalic anhydride | 2.739 moles | ClC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3ClO3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | potassium fluoride | [F-].[K+]
reactant | urea | 1.37 moles | NC(=O)N | CH4N2O
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3-fluorophthalimide | 84.5% | FC1=C2C(C(=O)NC2=O)=CC=C1 | C8H4FNO2
